US08076336B2
2-Bromo-1-[3-tert-butyl-5-(2-methoxy-1-methoxymethylethoxy)phenyl]ethanone
1-[3-tert-Butyl-5-(2-methoxy-1-methoxymethylethoxy)phenyl]ethanone (O2.072; 1.64 g) was dissolved in methanol/THF (30/30 ml) and admixed while stirring with phenyltrimethylammonium tribromide (2.09 g). The mixture was stirred at RT for 1 h, then diluted with DCM and washed once with 5% sodium thiosulfate solution. The DCM phase was dried over magnesium sulfate, filtered and concentrated. The residue was purified using silica gel (80 g cartridge, n-heptane/MtB ether gradient of 0-30% within 60 min). 890 mg of the title compound were obtained.

reactant | 1-[3-tert-Butyl-5-(2-methoxy-1-methoxymethylethoxy)phenyl]ethanone | 1.64 g | C(C)(C)(C)C=1C=C(C=C(C1)OC(COC)COC)C(C)=O | C17H26O4
reactant | phenyltrimethylammonium tribromide | 2.09 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | methanol THF | 30 ml | CO.C1CCOC1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-[3-tert-butyl-5-(2-methoxy-1-methoxymethylethoxy)phenyl]ethanone | 890 mg | BrCC(=O)C1=CC(=CC(=C1)OC(COC)COC)C(C)(C)C | C17H25BrO4
